US08258097B2
(S)-2-Benzyloxycarbonylamino-3-(4-benzyloxy-3-hydroxy-phenyl)-propionic acid methyl ester (434 mg) was dissolved in dichloromethane (7 ml) and a solution of 1-pyrrolidinylcarbonyl chloride (200 mg) in dichloromethane (2 ml) was added. Triethylamine (0.22 ml) was added dropwise followed by a catalytic amount of DMAP. The mixture was stirred and heated at 40° C. overnight. The reaction was monitored by HPLC/MS and further portions of 1-pyrrolidinylcarbonyl chloride (400 mg) and triethylamine (0.4 ml) were added and heating continued at 55 C for 48 hours. The reaction mixture was diluted with dichloromethane and washed with dil HCl, with aq sodium bicarbonate and with brine. Drying (MgSO4) and evaporation gave the crude product. Silca gel chromatography, eluting with mixtures of ethyl acetate-hexane gave pyrrolidine-1-carboxylic acid 2-benzyloxy-5-((S)-2-benzyloxycarbonylamino-2-methoxycarbonyl-ethyl)-phenyl ester as a colourless gum, 364 mg; Rf 0.3 (ethyl acetate-hexane 1:1); HPLC/MS retention time 7.31 min, m/z 533 (MH+).

reactant | (S)-2-Benzyloxycarbonylamino-3-(4-benzyloxy-3-hydroxy-phenyl)-propionic acid methyl ester | 434 mg | COC([C@H](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)O)NC(=O)OCC1=CC=CC=C1)=O | C25H25NO6
reactant | 1-pyrrolidinylcarbonyl chloride | 200 mg | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | Triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | 1-pyrrolidinylcarbonyl chloride | 400 mg | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | pyrrolidine-1-carboxylic acid 2-benzyloxy-5-((S)-2-benzyloxycarbonylamino-2-methoxycarbonyl-ethyl)-phenyl ester | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OCC1=CC=CC=C1)OC(=O)N1CCCC1 | C30H32N2O7
